US05374727
A solution of 9.93 g (0.033 mol) of ethyl 9-acetoxy-6,7,8,9-tetrahydropyrido[1,2-a]indole-8-carboxylate in 150 ml of toluene is treated with 8.3 ml (0.066 mol) of 1,1,3,3-tetra-methylguanidine and the reaction mixture is heated at 80° C. for 17 hours. The resulting solution is then cooled to room temperature, washed in succession three times with 50 ml of 1N hydrochloric acid each time, 50 ml of aqueous sodium bicarbonate solution and 50 ml of sodium chloride solution, dried over anhydrous sodium sulfate and evaporated to dryness. After trituration of the residue with n-hexane, there are obtained 6.64 g (83%) of ethyl 6,7-dihydropyrido[1,2-a]indole-8-carboxylate as a pale yellow solid, m.p. 77°-79° C.

reactant | ethyl 9-acetoxy-6,7,8,9-tetrahydropyrido[1,2-a]indole-8-carboxylate | 0.033 mol, 9.93 g | C(C)(=O)OC1C(CCN2C1=CC1=CC=CC=C21)C(=O)OCC | C17H19NO4
reactant | 1,1,3,3-tetra-methylguanidine | 0.066 mol, 8.3 ml | CN(C(=N)N(C)C)C | C5H13N3
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 6,7-dihydropyrido[1,2-a]indole-8-carboxylate | 6.64 g, 83% | C1=C2C=C3N(C2=CC=C1)CCC(=C3)C(=O)OCC | C15H15NO2
